US05091426
3-Dimethylamino-1-[5-(4-chlorophenyl)-2-furanyl]-1-propanone Hydrochloride
A solution of 22 g. (0.10 mole) of 5-(p-chlorophenyl)-2-furyl methyl ketone, 16 g. (0.20 mole) of dimethylamine hydrochloride, 6 g (0.20 mole) of paraformaldehyde, 100 ml. of n-butanol, and 1 ml. of concentrated HCl is heated under reflux for 2 hr. Solvent is removed on a rotary evaporator and the yellow, residual solid is partitioned between ether and water. The layers are separated and the water layer is washed with ether. The water layer is made basic with 1 N NaOH solution and is extracted twice with ether. The ethereal layers are dried over MgSO4 and are concentrated on a rotary evaporator to give a residual semi-solid. The solid is dissolved in 350 ml. of isopropanol and is treated with ethereal HCl. The solid which is deposited is collected by filtration and is dried in a 60° oven to give 13 g (42%) of product.

reactant | 5-(p-chlorophenyl)-2-furyl methyl ketone | 0.10 mole | CC(=O)C=1OC(=CC1)C1=CC=C(C=C1)Cl | C12H9ClO2
reactant | dimethylamine hydrochloride | 0.20 mole | Cl.CNC
reactant | paraformaldehyde | 0.20 mole, 6 g | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-Dimethylamino-1-[5-(4-chlorophenyl)-2-furanyl]-1-propanone Hydrochloride | 13 g, 42% | Cl.CN(CCC(=O)C=1OC(=CC1)C1=CC=C(C=C1)Cl)C | InChI=1S/C15H16ClNO2.ClH/c1-17(2)10-9-13(18)15-8-7-14(19-15)11-3-5-12(16)6-4-11;/h3-8H,9-10H2,1-2H3;1H
